US08304419B2
Step G: 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile
3-{[3-(Bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (1.0 g, 2.6 mmol) was dissolved in CH2Cl2 (5 mL) and added dropwise to ammonia in methanol (7N, 25 mL). The reaction mixture was stirred for 2 h then the solvent was evaporated. The resulting oil was purified by column chromatography (CH-2Cl2/MeOH) to afford the title compound (0.7 g, 84%). 1H NMR (400 MHz, DMSO-d6): δ ppm 7.79 (s, 2H), 7.45-7.56 (m, 4H), 7.42 (t, 1H), 3.75 (s, 2H). MS: m/z 311.1 (M+1).

reactant | 3-{[3-(Bromomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 2.6 mmol, 1.0 g | BrCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H7BrCl2FNO
reactant | ammonia | N | H3N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 7N, 25 mL | CO | CH4O
product | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.7 g, 84% | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
